US08013154B2
2,2,2-Trifluoroethanol (2.2 mL, 30 mmol) was slowly added to a suspension of NaH (1.5 g, 36 mmol, 60% dispersion in mineral oil) in anhydrous THF (50 mL) under an N2 atmosphere. To the resulting mixture was added a solution of 2-amino-4-chloro-6-trifluoromethylpyrimidine (5.0 g, 25 mmol; for preparation see: Giner-Sorolla, A. and Bendich, A. J. Am. Chem. Soc. 1957, 80, 5744 and Gershon, H. et al. J. Het. Chem. 1983, 20, 219) in anhydrous THF (50 mL). The resulting mixture was stirred 18 h at room temperature and the solvent evaporated. The resulting residue was partitioned between CH2Cl2 (200 mL) and H2O (200 mL). The organics separated, dried over MgSO4, filtered and evaporated to afford 2-amino-4-(2,2,2-trifluoroethoxy)-6-trifluoromethyl-pyrimidine as a tan solid (4.9 g, 74% yield): m.p. 108-110° C.; 1H NMR (CDCl3) δ 6.54 (s, 1H), 5.53 (bs, 2H), 4.76 (q, 2H, J=8.2 Hz); GCMS (EI, 70 eV) m/z 261 (M+).

reactant | 2,2,2-Trifluoroethanol | 30 mmol, 2.2 mL | FC(CO)(F)F | C2H3F3O
reactant | NaH | 36 mmol, 1.5 g | [H-].[Na+]
reactant | 2-amino-4-chloro-6-trifluoromethylpyrimidine | NC1=NC(=CC(=N1)Cl)C(F)(F)F | C5H3ClF3N3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-amino-4-(2,2,2-trifluoroethoxy)-6-trifluoromethyl-pyrimidine | 4.9 g, 74% yield | NC1=NC(=CC(=N1)OCC(F)(F)F)C(F)(F)F | C7H5F6N3O
